US08198466B2
Step 2: 2-Methyl-3-(3,4,5-trimethoxybenzoyl)-6-methoxy-7-hydroxy-benzo[b]furan
Note: A similar reaction when scaled-up with 2-methyl-3-(3,4,5-trimethoxybenzoyl)-6-methoxy-7-isopropoxy-benzo[b]furan (1.25 gm) and boron trichloride solution (1M solution in DCM, 3.1 mL) gave the title compound (930 mg, 83%).

reactant | 2-methyl-3-(3,4,5-trimethoxybenzoyl)-6-methoxy-7-isopropoxy-benzo[b]furan | 1.25 gm | CC1=C(C2=C(O1)C(=C(C=C2)OC)OC(C)C)C(C2=CC(=C(C(=C2)OC)OC)OC)=O | C23H26O7
reactant | boron trichloride | 1M, 3.1 mL | B(Cl)(Cl)Cl | BCl3
product | 2-Methyl-3-(3,4,5-trimethoxybenzoyl)-6-methoxy-7-hydroxy-benzo[b]furan | 930 mg, 83% | CC1=C(C2=C(O1)C(=C(C=C2)OC)O)C(C2=CC(=C(C(=C2)OC)OC)OC)=O | C20H20O7
